US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine (Compound 78)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 85%). 1H NMR (300 MHz, CDCl3): δ 3.21-3.32 (m, 4H), 3.75-3.88 (m, 6H), 4.10-4.13 (m, 4H), 6.80-6.90 (m, 4H), 7.14-7.29 (m, 3H), 7.63-7.66 (m, 1H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | 85% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl)OC | C21H22ClN5O3
